* Widlar Current Source Approximation
Vdd vdd 0 DC 5
Iref vdd ref DC 100u
M1 ref ref 0 0 NMOS
M2 out ref n1 0 NMOS
Rs n1 0 1k
Rload vdd out 20k
.model NMOS NMOS LEVEL=1 VTO=1 KP=1m LAMBDA=0.02 KF=0 AF=1
.op

.control
set noaskquit
save all
run
.endc

.end

